US08133995B2
Intermediate AY. Preparation of Ethyl 4-amino-7-bromo-5-{4-[({[4-(trifluoromethyl)pyridin-2-yl]amino}carbonyl)amino]phenyl}pyrrolo[2,1-f]-[1,2,4]triazine-6-carboxylate
Ethyl-4-amino-5-(4-aminophenyl)-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (1.5 g, 3.99 mmol) was suspended in THF (20 mL) and treated with triethylamine (0.56 mL, 3.99 mmol) and phenyl[4-(trifluoromethyl)pyridin-2-yl]carbamate (1.13 g, 3.99 mmol). The mixture was heated to 70° C. for 18 h. After cooling to rt, the mixture was concentrated then suspended in EtOAc. The product was collected by filtration to give 2.0 g of a tan solid (89%). 1H-NMR (DMSO-d6) δ 9.91 (s, 1H) 9.75 (s, 1H), 8.53 (d, J=5.4, 1H), 8.06 (s, 1H), 8.04 (s, 1H), 7.60 (d, J=11, 2H), 7.37-7.31 (m, 3H), 5.15 (bs, 2H), 4.04 (q, J=7.1, 2H), 0.99 (t, J=7.2, 3H); MS [M+H]+=563.9, 565.9; LCMS RT=3.22.

reactant | Ethyl-4-amino-5-(4-aminophenyl)-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 3.99 mmol, 1.5 g | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1Br)N)C1=CC=C(C=C1)N | C15H14BrN5O2
reactant | triethylamine | 3.99 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl[4-(trifluoromethyl)pyridin-2-yl]carbamate | 3.99 mmol, 1.13 g | C1(=CC=CC=C1)OC(NC1=NC=CC(=C1)C(F)(F)F)=O | C13H9F3N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl 4-amino-7-bromo-5-{4-[({[4-(trifluoromethyl)pyridin-2-yl]amino}carbonyl)amino]phenyl}pyrrolo[2,1-f]-[1,2,4]triazine-6-carboxylate | 2.0 g, 89% | NC1=NC=NN2C1=C(C(=C2Br)C(=O)OCC)C2=CC=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F | C22H17BrF3N7O3
